US04026709
26.9 g (0.14 mol) of trimethoxypropionic acid ethyl ester (prepared according to DT-OS 2,042,920 ) are dissolved in 100 ml of absolute methanol, 7 ml of glacial acetic acid are added and the mixture is heated to the boil. 23.4 g (0.12 mol) of 3-nitro-2,4,6-trimethylphenylhydrazine (prepared according to DT-OS 2,156,913) are introduced in portions into the mixture over the course of 10 minutes. The mixture is stirred for a further 10 minutes at the boil and is allowed to cool whilst stirring. The orange crystals which have precipitated are filtered off, washed with a little methanol and dried (18 hours in vacuo at 50° C.). 14.4 g of β-methoxy-β-(3-nitro-2,4,6-trimethylphenylhydrazino)-acrylic acid ethyl ester of melting point 82° - 83° C. are obtained.

reactant | trimethoxypropionic acid ethyl ester | 0.14 mol, 26.9 g | C(C)OC(CC(OC)(OC)OC)=O | C8H16O5
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
reactant | 3-nitro-2,4,6-trimethylphenylhydrazine | 0.12 mol, 23.4 g | [N+](=O)([O-])C=1C(=C(C(=CC1C)C)NN)C | C9H13N3O2
solvent | methanol | 100 ml | CO | CH4O
product | β-methoxy-β-(3-nitro-2,4,6-trimethylphenylhydrazino)-acrylic acid ethyl ester | 14.4 g | C(C)OC(C=C(NNC1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)OC)=O | C15H21N3O5
